US08372971B2
Synthesis of 5-[4-(pyrimidin-5-yloxy)phenyl]-N-[3-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-amine
4-(5-{[3-(trifluoromethyl)phenyl]amino}-4H-1,2,4-triazol-3-yl-phenol (100 mg, 0.31 mmol) was dissolved in 3 mL of anhydrous dioxane in 2-5 mL microwave vial (Personal Chemistry). Solid Cs2CO3 (203.4 mg, 0.62 mmol) was added, followed by 5-bromo-pyrimidine (100 mg, 0.62 mmol). Then 1 mL of anhydrous DMF was added, the vial was capped and microwaved at 250° C. for 30 min. Then ca. 3 mL of MeOH was added to dissolve the formed suspension, the solution was transferred into a round-bottom flask and solvent was removed in vacuo. The residue was re-dissolved in 3 mL of DMF, filtered through 0.22 u syringe filter and purified by reverse phase preparative HPLC using acetonitrile/water system with 0.01% of TFA. The fractions containing the product were collected and partitioned between EtOAc and saturated aqueous NaHCO3. Ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate and filtered. Solvent was removed in vacuo to give the title compound as a light-brown foamy solid (34.7 mg).

reactant | 5-{[3-(trifluoromethyl)phenyl]amino}-4H-1,2,4-triazol-3-yl-phenol | 0.31 mmol, 100 mg | FC(C=1C=C(C=CC1)NC=1NC(=NN1)C1=C(C=CC=C1)O)(F)F | C15H11F3N4O
reactant | Cs2CO3 | 0.62 mmol, 203.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-bromo-pyrimidine | 0.62 mmol, 100 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | ca. 3 mL | CO | CH4O
product | 5-[4-(pyrimidin-5-yloxy)phenyl]-N-[3-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-amine | 34.7 mg | N1=CN=CC(=C1)OC1=CC=C(C=C1)C=1NC(=NN1)NC1=CC(=CC=C1)C(F)(F)F | C19H13F3N6O
